US05728686
Diethyl [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate
44.8 g (0.2 mol) of 7-ethoxymethyl-3-methylxanthine were suspended in 500 ml of DMF, treated with 55 g (0.24 mol) of diethyl 4-chlorobutane-phosphonate and 50 g (0.32 mol) of activated potassium carbonate and heated at 70° C. for 4 hours and filtered, the filtrate was concentrated under reduced pressure and the oily residue which remained was taken up in ethyl acetate. filtered again and crystallized from diisopropyl ether.

reactant | 7-ethoxymethyl-3-methylxanthine | 0.2 mol, 44.8 g | C(C)OCN1C=NC=2N(C(NC(C12)=O)=O)C | C9H12N4O3
reactant | diethyl 4-chlorobutane-phosphonate | 0.24 mol, 55 g | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
reactant | potassium carbonate | 0.32 mol, 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Diethyl [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP(OCC)(OCC)=O)=O)C | C17H29N4O6P
